US04803200
2,3-Diphenylmorpholine.
β-[(2-Hydroxyethyl)amino]-α-phenylbenzeneethanol erythro isomer, 7.1 g (0.027 mole) was added to 20 ml of 70% sulfuric acid at 0° C. The mixture was heated at 100° C. for 3 hr and poured into ice and neutralized with 25% sodium hydroxide. The neutralized mixture was extracted with diethyl ether and the extract was dried and the solvent evaporated to give 5.8 g (54%), m.p. 70°-72° C. of solids. The solids were recrystallized from ethanol water mixture followed by low boiling petroleum ether, m.p. 82°-84° C.

reactant | β-[(2-Hydroxyethyl)amino]-α-phenylbenzeneethanol | OCCNC(C(O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H19NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 2,3-Diphenylmorpholine | C1(=CC=CC=C1)C1C(NCCO1)C1=CC=CC=C1 | C16H17NO
